US07220856B2
Preparation of 4-(7-Chloro-4-quinolinyl)-N-[4-(trifluoromethyl)cyclohexyl]-1-piperazinecarboxamide
As described for example 78, 4-trifluoromethyl cyclohexyl amine, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(piperazin-1-yl)quinoline are reacted to afford the product after flash chromatography with CH2Cl2-MeOH. LC-MS: 441 (M++1). 1H NMR (CDCl3) δ 8.78 (d, 1H), 8.05 (s, 1H), 7.95 (d, 1H), 7.46 (d, 1H), 6.85 (d, 1H), 4.60 (d, 1H), 4.03 (m, 1H), 3.65 (m, 4H), 3.20 (m, 4H), 2.10 (m, 1H), 1.85 (m, 4H), 1.50–1.70 (m, 4H).

reactant | 4-trifluoromethyl cyclohexyl amine | FC(C1CCC(CC1)N)(F)F | C7H12F3N
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-Chloro-4-quinolinyl)-N-[4-(trifluoromethyl)cyclohexyl]-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1CCC(CC1)C(F)(F)F | C21H24ClF3N4O
